US05712274
4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (10 g) is dissolved in diethyl carbonate (150 ml) in a nitrogen stream, and 60% sodium hydride (2.0 g) is added with stirring at room temperature. The mixture is refluxed under heating for 2 hours and cooled to 50° C. with ice water. Ethyl acrylate (5.4 ml) is added. After stirring at 50° C. for 3 hours, the reaction mixture is poured into ice water (1 l) and extracted with ethyl acetate. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (ethyl acetate:methanol=100:l) to give 3.2 g of (±)-ethyl 3-(4-(4-chlorophenyl)-6-ethoxycarbonyl-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)propionate as an oil. (±)-Ethyl 3-(4-(4-chlorophenyl)-6-ethoxycarbonyl-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepin-6-yl)propionate (3.2 g) is dissolved in a mixture of ethanol (90 ml) and water (30 ml), and barium hydroxide 8 hydrate (7.8 g) is added. The mixture is refluxed under heating for 4 hours. After the completion of the reaction, ethanol is distilled away under reduced pressure and adjusted to pH 1 with 6N hydrochloric acid. The mixture is stirred for 30 minutes and adjusted to pH 4 with a saturated aqueous solution of sodium hydrogencarbonate and extracted with chloroform. The organic layer is washed with a saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is crystallized from ethyl acetate and isopropyl ether to give 0.1 g of (±)-3-(4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepin-6-yl)propionic acid as brown crystals, melting point 210°-212° C.

reactant | 4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 10 g | ClC1=CC=C(C=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C | C17H15ClN4S
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | Ethyl acrylate | 5.4 ml | C(C=C)(=O)OCC | C5H8O2
solvent | diethyl carbonate | 150 ml | C(OCC)(OCC)=O | C5H10O3
product | (±)-ethyl 3-(4-(4-chlorophenyl)-6-ethoxycarbonyl-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)propionate | 3.2 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)(C(=O)OCC)CCC(=O)OCC | C25H27ClN4O4S
